US06838463B2
To 2 ml of N,N-dimethylformamide were added 183 mg of 4-chloro-6-(2-butynyloxy)pyrimidine, 166 mg of potassium carbonate, and 73 mg of diethylamine, followed by stirring at a bath temperature of 50° C. for 4 hours. Then, 73 mg of diethylamine was further added, followed by stirring at a bath temperature of 50° C. for 5.5 hours. Then, 146 mg of diethylamine was further added, followed by stirring at a bath temperature of 40° C. for 6 hours. The reaction mixture was left for cooling to room temperature, diluted with ethyl acetate, and washed three times with an aqueous sodium chloride solution. The organic layers were dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel thin layer chromatography to give 136 mg of 4-(2-butynyloxy)-6-(N,N-diethylamino)pyrimidine (the present compound (144)).

reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
reactant | 4-chloro-6-(2-butynyloxy)pyrimidine | 183 mg | ClC1=NC=NC(=C1)OCC#CC | C8H7ClN2O
reactant | potassium carbonate | 166 mg | C([O-])([O-])=O.[K+].[K+]
reactant | diethylamine | 73 mg | C(C)NCC | C4H11N
reactant | diethylamine | 73 mg | C(C)NCC | C4H11N
reactant | diethylamine | 146 mg | C(C)NCC | C4H11N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(2-butynyloxy)-6-(N,N-diethylamino)pyrimidine | 136 mg | C(C#CC)OC1=NC=NC(=C1)N(CC)CC | C12H17N3O
